US07405300B2
To a vigorously stirred solution of 2-chloro-1-phenyl-1H-indole-3-carboxaldehyde (4.0 g, 15.6 mmol), 2 M 2-methyl-2-butene (74 mL, 148 mmol) in dioxane (58 mL) at 25° C. is added dropwise over 30 min a solution of sodium chlorite (7.8 g, 86 mmol) and sodium dihydrogenphosphate hydrate (7.8 g, 56 mmol) in water (40 mL). After 2.5 hr, more sodium chlorite (1.92 g, 21.2 mmol) and sodium dihydrogenphosphate hydrate (1.92 g) are added. After 2.5 hr, more sodium chlorite (0.96 g, 10.6 mmol) and sodium dihydrogenphosphate hydrate (0.96 g) are added. After a total reaction time of 6.5 hr, ethyl acetate (100 mL) is added and stirring continued for 45 min. The aqueous layer is separated and extracted with ethyl acetate (2×60 mL). The combined ethyl acetate layer and extracts is concentrated to approximately 80 mL and then extracted with 1% aq. sodium hydroxide (3×150 mL). The combined aqueous extract is made acidic with conc. hydrochloric acid. The resulting solids are collected by filtration, washed with water and crystallized from 2-propanol to afford 2-chloro-1-phenyl-1H-indole-2-carboxylic acid (3.28 g, 77.5% yield) as a pale yellow solid. NMR (CDCl3) 8.30 (1H, d), 7.60 (3H, m), 7.41 (2H, d), 7.38 (1H, t), 7.23 (1H, m), 7.10 (1H, d).

reactant | 2-chloro-1-phenyl-1H-indole-3-carboxaldehyde | 15.6 mmol, 4.0 g | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C15H10ClNO
reactant | 2-methyl-2-butene | 148 mmol, 2 M, 74 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 86 mmol, 7.8 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate hydrate | 56 mmol, 7.8 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 21.2 mmol, 1.92 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate hydrate | 1.92 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 10.6 mmol, 0.96 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate hydrate | 0.96 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | dioxane | 58 mL | O1CCOCC1 | C4H8O2
solvent | water | 40 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-chloro-1-phenyl-1H-indole-2-carboxylic acid | 3.28 g, 77.5% yield | ClC1(N(C2=CC=CC=C2C1)C1=CC=CC=C1)C(=O)O | C15H12ClNO2
